US07402595B2
2-(2,3-dihydrobenzofuran-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
A mixture of 6-bromo-2-(2,3-dihydrobenzofuran-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (400 mg), 10% palladium carbon (150 mg), methanol (6 ml) and THF (6 ml) was stirred at room temperature under 1 atm hydrogen pressure for 12 hrs. Palladium carbon was filtered off, and the filtrate was concentrated. The obtained residue was crystallized from ethyl acetate-hexane to give the title compound (310 mg).

reactant | 6-bromo-2-(2,3-dihydrobenzofuran-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 400 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC=1C=CC2=C(CCO2)C1 | C26H20BrNO4
reactant | methanol | 6 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 150 mg | [C].[Pd]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 2-(2,3-dihydrobenzofuran-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 310 mg | COC(=O)C=1N(C(C2=CC=CC=C2C1C1=CC=CC=C1)=O)CC=1C=CC2=C(CCO2)C1 | C26H21NO4
